US08802704B2
Step 2: tert-butyl N-(2-chloro-5-cyanobenzyl)-N-methylglycinate
The title compound was prepared following general procedure 10, starting from 3-(bromomethyl)-4-chlorobenzonitrile and sarcosine tert-butyl ester hydrochloride. It was obtained as a colorless oil (1.9 g, 86%). LC/MS (Method B): 295.1 (M+H)+.

reactant | 3-(bromomethyl)-4-chlorobenzonitrile | BrCC=1C=C(C#N)C=CC1Cl | C8H5BrClN
reactant | sarcosine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CNC)=O
product | tert-butyl N-(2-chloro-5-cyanobenzyl)-N-methylglycinate | ClC1=C(CN(CC(=O)OC(C)(C)C)C)C=C(C=C1)C#N | C15H19ClN2O2
